US05510486
A mixture of potassium tert-butoxide (74.13 g, 661 mmol) and N,N,N',N'-tetramethylethylenediamine (6.63M, 78.92 mL, 523 mmol) in 1.7 L of hexane was cooled to below -30° C. under a nitrogen atmosphere and then n-butyl lithium (1.6M, 327 mL, 523 mmol) was added over 15 minutes. The mixture was stirred for 15 minutes and 1,2,3,4-tetrahydronapthalene (7.36M, 85.27 mL, 623 mmol) was added. The mixture was stirred for 6 hours at 0° C. and then for 18 hours at between 0° and 20° C. The mixture was aerated with carbon dioxide for approximately 30 minutes and then approximately 1.2 L of water was added. The aqueous layer was separated, cooled in an ice-water bath and acidified with approximately 185 mL of 12N hydrochloric acid. The mixture was then extracted with ethyl acetate (2×1 L) and the combined ethyl acetate layers were dried (NaSO4). The mixture was filtered and concentrated. The residue was dissolved in 170 mL of formic acid and then the solution was diluted with 340 mL of water to give a crystalline product. The product was isolated by filtration, washed with 40 mL of water and dried. The dry material was dissolved in 0.74 L of ethyl acetate and the solution was washed with 0.5 L of water, dried (Na2SO4) and concentrated to give 1,2,3,4-tetrahydro-1-naphthoic acid (38.68 g, 219.6 mol), m.p. 74.4°-79.2° C.

reactant | potassium tert-butoxide | 661 mmol, 74.13 g | CC(C)([O-])C.[K+]
reactant | N,N,N',N'-tetramethylethylenediamine | 523 mmol, 6.63M, 78.92 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 523 mmol, 1.6M, 327 mL | C(CCC)[Li]
reactant | 1,2,3,4-tetrahydronapthalene | 623 mmol, 7.36M, 85.27 mL | C1CCCC2=CC=CC=C12 | C10H12
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hexane | 1.7 L | CCCCCC | C6H14
solvent | water | approximately 1.2 L | O | H2O
product | 1,2,3,4-tetrahydro-1-naphthoic acid | 219.6 mol, 38.68 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
